US06080773
(R)-2-(1,2-Benzisoxazol-3-yl)-α-2-propenyl-benzenemethanamine hydrochloride
(+)-2-(6-chloro-1,2-benzisoxazol-3-yl)-a-2-propynyl-benzenemethanamine (E)-butenedioate (2:1 salt), melting at 176-179° C., a (c=0.5 in methanol) +20.7,

reactant | (+)-2-(6-chloro-1,2-benzisoxazol-3-yl)-a-2-propynyl-benzenemethanamine (E)-butenedioate | C(\C=C\C(=O)O)(=O)O.ClC1=CC2=C(C(=NO2)C2=C(C=CC=C2)C(N)CC#C)C=C1
solvent | methanol | CO | CH4O
product | (R)-2-(1,2-Benzisoxazol-3-yl)-α-2-propenyl-benzenemethanamine hydrochloride | Cl.O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)[C@H](N)CC=C | InChI=1S/C17H16N2O.ClH/c1-2-7-15(18)12-8-3-4-9-13(12)17-14-10-5-6-11-16(14)20-19-17;/h2-6,8-11,15H,1,7,18H2;1H/t15-;/m1./s1
